* source 12VMODULE
* PSpice Text Block on SCHEMATIC1 SPICE_MODELS
.SUBCKT GCM21BD70G226ME36 PORT1 PORT2
C1 PORT1 11 1.67E-5
L2 11 12 1.96E-10
R3 12 13 2.18E-3
C4 13 14 4.13E-4
R4 13 14 25.6
C5 14 15 9.27E-4
R5 14 15 1.52
C6 15 16 7.93E-4
R6 15 16 2.53E-1
C7 16 17 8.28E-4
R7 16 17 4.25E-2
C8 17 18 6.91E-4
R8 17 18 7.46E-3
C9 18 19 6.35E-4
R9 18 19 1.72E-3
L10 19 20 1.70E-11
R10 19 20 1.03E-1
L11 20 21 4.75E-11
R11 20 21 2.49E-2
L12 21 22 4.18E-10
R12 21 22 1.25E-2
C13 22 23 5.26E-5
L13 22 23 6.99E-11
R13 22 23 3.62E-3
C14 23 24 3.61E-5
L14 23 24 5.00E-11
R14 23 24 2.78E-3
C15 24 PORT2 9.38E-12
L15 24 PORT2 4.90E-11
R15 24 PORT2 8.51
R100 PORT1 11 2.27E+6
.ENDS GCM21BD70G226ME36
***
.SUBCKT 50SVT68M 1 2
C_C1         6 7  64.7U
C_C2         1 4  343.9U
C_C3         1 3  530U
C_C4         1 9  280U
C_C5         1 10 400U
L_L1         8 2  4.6N
L_L2         4 6  0.6N
L_L3         4 5  2.0N
R_R1         7 8  14M
R_R2         1 7  73529.4
R_R3         1 4  800M
R_R4         4 6  100M
R_R5         3 4  5M
R_R6         9 3  70M
R_R7         5 6  60M
R_R8        10 9  400M
.ENDS
***
.SUBCKT GCM21BC72A105KE36 PORT1 PORT2
C1 PORT1 11 9.39E-7
L2 11 12 2.34E-10
R3 12 13 5.88E-3
C4 13 14 1.40E-4
R4 13 14 4.00
C5 14 15 1.10E-4
R5 14 15 8.75E-1
C6 15 16 1.11E-4
R6 15 16 1.41E-1
C7 16 17 1.01E-4
R7 16 17 2.35E-2
C8 17 18 7.32E-5
R8 17 18 6.12E-3
L9 18 19 1.35E-11
R9 18 19 8.56E-2
L10 19 20 1.89E-10
R10 19 20 3.87E-2
L11 20 21 1.83E-11
R11 20 21 3.51E-2
C12 21 22 2.97E-6
L12 21 22 5.53E-11
R12 21 22 1.43E-2
C13 22 23 1.39E-6
L13 22 23 5.49E-11
R13 22 23 1.53E-2
C14 23 PORT2 1.93E-11
L14 23 PORT2 6.74E-11
R14 23 PORT2 5.47
R100 PORT1 11 5.00E+7
.ENDS GCM21BC72A105KE36
***
.SUBCKT PSMN5R0-40MLH D G S
* PACKAGE IMPEDANCE
LD D 5 1.000P
RLD2 D 5 1.257M
RLD1 5 4 3.000U
LG G 1 1.509N
RLG G 1 1.896
LS S 8 520.0P
RLS2 S 8 653.5M
RLS1 8 7 320.0U
* DRAIN,GATE AND SOURCE RESISTANCES
RD 3 4 3.201M TC= 8.286M,1.000N
RG 1 2 772.9M
RS 6 7 1.000U
* BODY DIODE
RBD 9 4 795.4U TC= 4.000M,23.00U
DBD 7 9 D_DBD
RDS 7 4 8.000MEG TC= -5.000M
* INTERNAL MOS
M1 3 2 6 6 MINT
* GATE LEAKAGE AND GATE CAPACITANCE
RGS 2 6 160.0MEG
CGS 2 6 1.674N
* CGD
C11 11 12 1E-12
V11 11 0 0VDC
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (-16.0,1074.0)
+ (-15.0,1074.0)
+ (-12.0,1074.0)
+ (-10.0,1074.0)
+ (-8.0,1074.0)
+ (-6.0,1074.0)
+ (-5.0,1074.0)
+ (-4.0,1074.0)
+ (-3.0,1074.0)
+ (-2.0,1074.0)
+ (-1.0,639.0)
+ (-0.5,418.2)
+ (-0.2,355.0)
+ (-0.1,355.2)
+ (0.0,323.5)
+ (0.1,291.5)
+ (0.2,292.1)
+ (0.5,258.7)
+ (1.0,219.8)
+ (2.0,166.3)
+ (3.0,127.1)
+ (4.0,98.94)
+ (5.0,82.62)
+ (6.0,74.15)
+ (8.0,68.22)
+ (10.0,68.03)
+ (12.0,68.71)
+ (15.0,68.95)
+ (16.0,68.93)
+ (20.0,68.47)
+ (25.0,67.98)
+ (30.0,67.54)
+ (32.0,67.33)
.MODEL MINT NMOS VTO= 2.367 KP= 351.6 NFS= 574.5G ETA= 0.000
+ LEVEL= 3 GAMMA= 0.000 PHI= 600.0M IS= 1.000E-24 UO= 600.0
+ JS= 0.000 PB= 800.0M CJ= 0.000 CJSW= 0.000 CGSO= 0.000 CGDO= 0.000 CGBO=
+  0.000
+ TOX= 100.0N XJ= 0.000
+ VMAX= 752.3
.MODEL D_DBD D BV= 44.00 IBV= 250.0U RS= 1.000U IS= 1.036P
+ N= 1.000 M= 452.5M VJ= 644.6M FC= 500.0M CJO= 2.315N TT= 14.66N
.ENDS PSMN5R0-40MLH
***
.SUBCKT GRM32EC72A106KE05 PORT1 PORT2
C1 PORT1 11 9.73E-6
L2 11 12 7.75E-11
R3 12 13 1.56E-3
C4 13 14 8.12E-4
R4 13 14 6.53
C5 14 15 7.39E-4
R5 14 15 7.58E-1
C6 15 16 6.77E-4
R6 15 16 8.24E-2
C7 16 17 6.28E-4
R7 16 17 8.80E-3
C8 17 18 7.39E-4
R8 17 18 1.18E-3
L9 18 19 9.89E-12
R9 18 19 5.32E-2
L10 19 20 3.73E-10
R10 19 20 1.97E-2
L11 20 21 3.24E-11
R11 20 21 1.85E-2
C12 21 22 1.56E-5
L12 21 22 1.68E-10
R12 21 22 1.47E-2
C13 22 23 1.24E-5
L13 22 23 9.00E-11
R13 22 23 9.45E-3
C14 23 24 2.02E-11
L14 23 24 7.13E-11
R14 23 24 8.50
C15 24 PORT2 2.53E-12
L15 24 PORT2 1.82E-10
R15 24 PORT2 111
R100 PORT1 11 5.00E+6
.ENDS GRM32EC72A106KE05
***
.SUBCKT PMEG045T100EPD 1 2
R1 1 2 2.2E+006
D1 1 2
+ DIODE1
D2 1 2
+ DIODE2
*
*THE RESISTOR R1 AND THE DIODE D2 DO NOT REFLECT
*PHYSICAL DEVICES BUT IMPROVE
*ONLY MODELING IN THE REVERSE
*MODE OF OPERATION.
*
.MODEL DIODE1 D
+ IS = 2E-006
+ N = 1
+ BV = 66
+ IBV = 0.03
+ RS = 0.0075
+ CJO = 1.932E-009
+ VJ = 3
+ M = 0.9
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
.MODEL DIODE2 D
+ IS = 5E-012
+ N = 1
+ RS = 1.2
.ENDS
***
.SUBCKT GRM32ER71E226KE15 PORT1 PORT2
C1 PORT1 11 1.68E-5
L2 11 12 2.67E-11
R3 12 13 1.62E-3
C4 13 14 5.23E-4
R4 13 14 10.2
C5 14 15 6.12E-4
R5 14 15 9.45E-1
C6 15 16 5.56E-4
R6 15 16 1.07E-1
C7 16 17 4.38E-4
R7 16 17 1.32E-2
C8 17 18 4.53E-4
R8 17 18 1.70E-3
L9 18 19 4.15E-11
R9 18 19 2.84E-2
L10 19 20 4.32E-10
R10 19 20 1.52E-2
C11 20 21 3.31E-5
L11 20 21 1.50E-10
R11 20 21 9.09E-3
C12 21 22 2.15E-5
L12 21 22 9.95E-11
R12 21 22 7.13E-3
C13 22 PORT2 1.54E-12
L13 22 PORT2 3.52E-10
R13 22 PORT2 64.0
R100 PORT1 11 2.27E+6
.ENDS GRM32ER71E226KE15
***
X_U1         VIN N16866 N17570 VCC N21965 N17359 0 N1560510 N156059 N156058
+  N16349 VCC LM5156-Q1_TRANS PARAMS: SS=0 FAST_HICCUP=1 LM51561=0
V_V1         VIN 0 DC 14.8  
C_C1         0 VIN  GCM21BD70G226ME36  TC=0,0 
C_C2         0 VIN  GCM21BD70G226ME36  TC=0,0 
C_C3         0 VIN  50SVT68M  TC=0,0 
C_C4         0 VCC  GCM21BC72A105KE36  TC=0,0 
R_R1         N16349 VIN  154k TC=0,0 
R_R2         0 N16349  42k TC=0,0 
R_R3         0 N156059  21.2k TC=0,0 
C_C5         0 N156058  6n  TC=0,0 
C_C6         N16866 N17171  1n  TC=0,0 
R_R4         0 N17171  1k TC=0,0 
C_C7         0 N16866  2000p  TC=0,0 
M_M1         N17524 N17359 N17570 N17570 PSMN5R0-40MLH           
L_L1         N17524 N17413  3.3uH  
R_R5         VIN N17413  3.3m TC=0,0 
R_R6         0 N17570  4m TC=0,0 
L_L2         N18791 N17825  3.3uH  
R_R7         0 N17825  3.3m TC=0,0 
D_D1         N18791 N18879 PMEG045T100EPD 
R_Rload         0 N18879  1.5 TC=0,0 
C_C8         N17524 N18791  GRM32EC72A106KE05   TC=0,0 
C_C9         N17524 N18791  GRM32EC72A106KE05   TC=0,0 
C_C10         N18879 N19758  100u  TC=0,0 
R_R8         0 N19758  30m TC=0,0 
C_C11         N19932 N18879  100u  TC=0,0 
R_R9         0 N19932  30m TC=0,0 
C_C12         N20881 N18879  68u  TC=0,0 
R_R10         0 N20881  28m TC=0,0 
C_C13         0 N18879  GRM32ER71E226KE15   TC=0,0 
C_C14         0 N18879  GRM32ER71E226KE15   TC=0,0 
C_C15         0 N18879  GRM32ER71E226KE15   TC=0,0 
C_C16         0 N18879  GRM32EC72A106KE05  TC=0,0 
C_C17         0 N18879  GRM32EC72A106KE05  TC=0,0 
R_R11         0 N21965  3.74k TC=0,0 
R_R12         N21965 N18879  41.2k TC=0,0 
R_R13         VCC N1560510  1M TC=0,0 
